US06358971B1
2-Amino-3-(4-methoxyphenyl)-6-benzoyl-imidazo[1,2-a]pyridine
The 2-trifluoroacetamido-3-(4-methoxyphenyl)-6-benzoyl-imidazo[1,2-a]pyridine (4.89 g, 11.1 mmol) was converted to product in a manner substantially analogous to Example 67 to yield 3.08 g. (80%). EA, MS(FD).

reactant | 2-trifluoroacetamido-3-(4-methoxyphenyl)-6-benzoyl-imidazo[1,2-a]pyridine | 11.1 mmol, 4.89 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=CC=C(C=C1)OC)(F)F | C23H16F3N3O3
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-Amino-3-(4-methoxyphenyl)-6-benzoyl-imidazo[1,2-a]pyridine | NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=CC=C(C=C1)OC | C21H17N3O2
